US05250731
Acetophenone N-Benzoylhydrazone
To a solution of benzoic acid hydrazide (5.70 g, 0.042 mol) in tetrahydrofuran (75 mL) was added acetophenone (5.5 g, 0.046 mol) followed by concentrated HCl (3 drops). The reaction was allowed to stir for 12 h at 25° C. during which time the product precipitated as a colorless crystalline solid. The product was filtered, washed with tetrahydrofuran (1×30 mL), diethyl ether (3×60 mL) and pentane (2×60 mL), and the crystalline solids were dried in vacuo (6.65 g, 64%). 1H NMR (CD2Cl2): δ 2.35 (s, 3H, CH3), 7.30-8.0 (m, 10H, Ph), 9.0 (br, 1H, NH). All other substrates were prepared in a similar fashion.

reactant | benzoic acid hydrazide | 0.042 mol, 5.70 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
reactant | acetophenone | 0.046 mol, 5.5 g | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
catalyst | HCl | 3 drops | Cl | ClH
product | Acetophenone N-Benzoylhydrazone | C(C1=CC=CC=C1)(=O)NN=C(C)C1=CC=CC=C1 | C15H14N2O
